US04416884
4.0 g of 8-chloro-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid and 4.6 g of N-methylpiperazine was added to 10 ml of anhydrous dimethylsulfoxide and the mixture was heated on an oil bath at 150° to 160° C. for 8 hours while stirring. After completion of the reaction, the solvent and excessive methylpiperazine were removed under reduced pressure and a mixture of methanol and diethyl ether was added to form precipitates which were separated by filtration and washed with diethyl ether. The crystals thus obtained were suspended in 20 ml of a 10% aqueous hydrochloric acid solution and insoluble materials were removed by filtration. The filtrate was purified through column chromatography using Amberlite LH-20 (a trade name for a product of Tokyo Organic Chemical Industries Ltd.) (eluent: water, ethanol). Recrystallization of the eluate from dimethylformamide gave 1.0 g of 8-(4-methyl-1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid light yellow plates having a melting point of 278° to 280.5° C.

reactant | 8-chloro-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid | 4.0 g | ClC1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C13H10ClNO3
reactant | N-methylpiperazine | 4.6 g | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 8-(4-methyl-1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid | 1.0 g | CN1CCN(CC1)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C18H21N3O3
